US05346901
5-{2-ethoxy-5-[4-(2-hydroxyethyl)piperazinylsulphonyl]-phenyl}-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one;
1-methyl-5-[5-piperazinylsulphonyl)-2-n-propoxyphenyl]-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one; and 5-{5-[4-(2-hydroxyethyl)piperazinylsulphonyl]-2-n-propoxyphenyl}-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one.

reactant | 3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one | C(CC)C1=NNC2=C1N=CNC2=O | C8H10N4O
reactant | 5-{5-[4-(2-hydroxyethyl)piperazinylsulphonyl]-2-n-propoxyphenyl}-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one | OCCN1CCN(CC1)S(=O)(=O)C=1C=CC(=C(C1)C=1NC(C2=C(N1)C(=NN2C)CCC)=O)OCCC | C24H34N6O5S
product | 5-{2-ethoxy-5-[4-(2-hydroxyethyl)piperazinylsulphonyl]-phenyl}-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one | C(C)OC1=C(C=C(C=C1)S(=O)(=O)N1CCN(CC1)CCO)C=1NC(C2=C(N1)C(=NN2C)CCC)=O | C23H32N6O5S
